US07994174B2
A mixture of 6-chloro-N-(thiazol-2-yl)pyridine-3-sulfonamide (8.2 g, 30 mmol) and piperazine (12.5 g, 145 mmol) in DMF (150 mL) was heated to 80° C. overnight under a nitrogen atmosphere. The reaction mixture was evaporated to dryness under reduced pressure and purified by column chromatography over silica gel with dichloromethane/20% 3.5 M NH3 in methanol. The product containing fractions were dissolved in a minimal amount of water and methanol and purified by reversed phase column chromatography (ISCO) with a gradient of water and methanol. After about half of the solution was purified, crystals had formed in the liquid. This material was collected by filtration washed with methanol to yield additional material. In total 1.7 g (17%) of 6-(Piperazin-1-yl)-N-(thiazol-2-yl)pyridine-3-sulfonamide was obtained. 1H-NMR (300 MHz, DMSO-d6): δ 8.41 (d, J=2.3 Hz, 1H), 7.76 (dd, J=2.3, 9.0 Hz, 1H), 7.02 (d, J=4.1 Hz, 1H), 6.82 (d, J=9.0 Hz, 1H), 6.55 (d, J=4.1 Hz, 1H), 3.62-3.58 (m, 4H), 2.94-2.90 (m, 4H) ppm.

reactant | 6-chloro-N-(thiazol-2-yl)pyridine-3-sulfonamide | 30 mmol, 8.2 g | ClC1=CC=C(C=N1)S(=O)(=O)NC=1SC=CN1 | C8H6ClN3O2S2
reactant | piperazine | 145 mmol, 12.5 g | N1CCNCC1 | C4H10N2
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 6-(Piperazin-1-yl)-N-(thiazol-2-yl)pyridine-3-sulfonamide | 1.7 g, 17% | N1(CCNCC1)C1=CC=C(C=N1)S(=O)(=O)NC=1SC=CN1 | C12H15N5O2S2
